US07365085B2
a) (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester
To a solution of (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid (0.5 g, 3.7 mmol) in methanol (300 ml) was added concentrated hydrochloric acid (10 ml). After the resulting mixture was heated to reflux for 2 h solvent was removed under vacuum. The residue was dissolved in water and neutralized to pH=7. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate, brine, dried over sodium sulfate, and concentrated in vacco to give the title compound as colorless oil (0.5 g, 90%). MS m/e 596.6 (M+H)+.

reactant | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid | 3.7 mmol, 0.5 g | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C33H31ClF3NO3
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methanol | 300 ml | CO | CH4O
product | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester | 0.5 g, 90% | COC(CC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H33ClF3NO3
